US04980509
Preparation of 5-acetyl-1,1,2,3,3-pentamethyl indane
To a mixture, stirred at ambient temperature in the absence of the humidity of the air, of 25 g of 1,1,2,3,3-pentamethyl indane and 13 cm3 of acetyl chloride, there are added, in small portions, 23 g of aluminum chloride in a manner such that the temperature does not exceed 40° C. Stirring is maintained for 2 hours after the end of the addition and the reaction mixture is left overnight. The next day, it is poured into 200 cm3 of ice water and then extracted three times with 150 cm3 of dichloromethane. The organic phases are combined, washed with sodium bicarbonate and then with water and dried on magnesium sulfate. The solvent is removed by evaporation under a vacuum and 31 g of 5-acetyl-1,1,2,3,3-pentamethyl indane in liquid form which is directly used for the following reactions are obtained.

reactant | 1,1,2,3,3-pentamethyl indane | 25 g | CC1(C(C(C2=CC=CC=C12)(C)C)C)C | C14H20
reactant | acetyl chloride | 13 cm3 | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 23 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 5-acetyl-1,1,2,3,3-pentamethyl indane | C(C)(=O)C=1C=C2C(C(C(C2=CC1)(C)C)C)(C)C | C16H22O
